US04075344
6,7-DIMETHOXY-2-METHYL-1-VERATRYL-3(2H)-ISOQUINOLONE HYDROCHLORIDE
The lactone (3.6 g., 0.01 mole) is suspended in 100 ml. of dry tetrahydrofuran and gaseous methylamine is passed therein until complete solution is obtained. The mixture is left standing overnight at room temperature and concentrated under reduced pressure to provide a residual oil which is taken up in methanol and acidified with 5N ethanolic hydrogen chloride. The acidified solution is cooled and the precipitated solid is collected and cyrstallized from methanol-ethyl acetate to provide 3.1 g. (76.5%) of 6,7-dimethoxy-2-methyl-1-veratryl-3(2H)-isoquinolone, m.p. 233°-236° C. (dec.) (uncorr.).

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | methylamine | CN | CH5N
reactant | hydrogen chloride | 5N | Cl | ClH
reactant | 6,7-dimethoxy-2-methyl-1-veratryl-3(2H)-isoquinolone | COC1=CC2=CC(N(C(=C2C=C1OC)CC1=CC(OC)=C(OC)C=C1)C)=O | C21H23NO5
solvent | methanol | CO | CH4O
product | 6,7-DIMETHOXY-2-METHYL-1-VERATRYL-3(2H)-ISOQUINOLONE HYDROCHLORIDE | Cl.COC1=CC2=CC(N(C(=C2C=C1OC)CC1=CC(OC)=C(OC)C=C1)C)=O | InChI=1S/C21H23NO5.ClH/c1-22-16(8-13-6-7-17(24-2)18(9-13)25-3)15-12-20(27-5)19(26-4)10-14(15)11-21(22)23;/h6-7,9-12H,8H2,1-5H3;1H
